US04681883
2-[3-[3-(Piperidinomethyl)phenoxy]propylamino]pyrimidine
3-[3-(Piperidinomethyl)phenoxy]propylamine (2.0 g) and 2-chloropyrimidine (0.92 g) were fused at 160° C. for one hour. The reaction mixture was worked-up in a manner similar to that of Example 3 to give the title compound as an oil. This was treated with oxalic acid to give 2-[3-[3-(piperidinomethyl)phenoxy]propylamino]pyrimidine dioxalate (0.8 g), m.p. 181°-183° C. (recrystallised from methanol).

reactant | 3-[3-(Piperidinomethyl)phenoxy]propylamine | 2.0 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | 2-chloropyrimidine | 0.92 g | ClC1=NC=CC=N1 | C4H3ClN2
product | 2-[3-[3-(Piperidinomethyl)phenoxy]propylamino]pyrimidine | N1(CCCCC1)CC=1C=C(OCCCNC2=NC=CC=N2)C=CC1 | C19H26N4O
